### PR TITLE
Reply_R: Prove `replyRemoveTCB_invs'`

### PR DESCRIPTION
**Pull request by pierzchalski**
Step 1 of 100 towards `cancelIPC_invs'`.
Edit: turned out to be step 1 of 2, and also this now includes `cancelIPC_invs'`.

### CODE REVIEW

**Comment by pierzchalski** [comment]
[Testboard](https://bamboo.ts.data61.csiro.au/browse/L4V-TESTBOARD-610)

File: proof/refine/ARM/Invariants_H.thy [hunk 1]
```diff
@@ -356,8 +356,7 @@ definition live_ntfn' :: "notification \<Rightarrow> bool" where
                       \<or> (\<exists>ts. ntfnObj ntfn = WaitingNtfn ts)"
 
 definition live_reply' :: "reply \<Rightarrow> bool" where
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Invariants_H.thy:358]: Can you tell me a little about why you'd like to change this definition?

File: proof/refine/ARM/IpcCancel_R.thy [hunk 2]
```diff
@@ -1044,15 +1019,34 @@ lemma cancelSignal_tcb_obj_at':
   apply (wpsimp wp: setThreadState_not_st getNotification_wp)
   done
 
-lemma (in delete_one_conc_pre) cancelIPC_tcbDomain_obj_at':
+crunches replyRemoveTCB, cancelSignal, getBlockingObject
+  for obj_at'_only_st_qd_ft: "\<lambda>s. P (obj_at' (Q :: tcb \<Rightarrow> bool) t s)"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1023]: Considering the name you've given to the following lemma, is his wha you'd like to call just this predicate?

File: proof/refine/ARM/Reply_R.thy [hunk 3]
```diff
@@ -96,4 +95,487 @@ lemma replyRemoveTCB_st_tcb_at'_sym_ref:
...
+  unfolding replyUnlink_def setReplyTCB_def getReplyTCB_def replyUnlink_assertion_def
+            updateReply_def
+  apply (wpsimp wp: sts'_valid_pspace'_inv hoare_vcg_imp_lift'
+              simp: valid_tcb_state'_def valid_pspace'_def)
+  apply normalise_obj_at'
+  apply (frule(1) reply_ko_at_valid_objs_valid_reply')
+  apply (clarsimp simp: valid_reply'_def)
+  done
+
+lemma replyUnlink_not_runnable_valid_queues:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Reply_R.thy:143]: This should be unnecessary seeing that we have `replyUnlink_valid_queues` below

File: proof/refine/ARM/Reply_R.thy [hunk 4]
```diff
@@ -96,4 +95,487 @@ lemma replyRemoveTCB_st_tcb_at'_sym_ref:
...
+  done
+
+lemma updateReply_valid_objs'_preserved:
+  "\<lbrace>valid_objs' and K (\<forall>r s. valid_reply' r s \<longrightarrow> valid_reply' (upd r) s)\<rbrace>
+   updateReply rptr upd
+   \<lbrace>\<lambda>_. valid_objs'\<rbrace>"
+  apply (wpsimp wp: updateReply_valid_objs'_preserved_strong)
+  done
+
+lemma replyUnlink_valid_objs':
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Reply_R.thy:276]: I know that I keep adding this one to `wpsimp`s. Did we wanna put it in the `wp` set?

File: proof/refine/ARM/Reply_R.thy [hunk 5]
```diff
@@ -96,4 +95,487 @@ lemma replyRemoveTCB_st_tcb_at'_sym_ref:
...
+  apply (prop_tac "replyNexts_of s rptr = replyNext_of reply
+                   \<and> replyPrevs_of s rptr = replyPrev reply ")
+   apply (clarsimp simp: opt_map_def reply_of'_KOReply)
+  apply (case_tac "replyNext_of reply"
+         ; case_tac "replyPrev reply"
+         ; clarsimp simp: sym_refs_replyNext_None sym_refs_replyPrev_None
+                          sym_refs_replyNext_replyPrev_proj)
+  done
+
+\<comment>\<open> Used to "hide" @{term "sym_refs o list_refs_of_replies'"} from simplification. \<close>
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Reply_R.thy:482]: Are there not more standard ways of doing the same sort of thing? `thin_tac` maybe? I guess if the use of this is limited it's not so bad

File: proof/refine/ARM/Reply_R.thy [hunk 6]
```diff
@@ -96,4 +95,487 @@ lemma replyRemoveTCB_st_tcb_at'_sym_ref:
...
+  apply (wpsimp wp: cleanReply_valid_pspace' updateReply_valid_pspace' hoare_vcg_if_lift
+                    hoare_vcg_imp_lift' gts_wp' setObject_sc_idle' haskell_assert_wp
+         split_del: if_split)
+  apply (clarsimp simp: valid_reply'_def pred_tcb_at'_def)
+  apply (intro conjI impI allI
+         ; simp?
+         ; normalise_obj_at'?)
+  \<comment>\<open> Weird indentation: around 20 subgoals, almost all of which are trivial/boring facts or
+      contradictions about being a valid SC. \<close>
+  apply (all \<open>(solves \<open>clarsimp simp: valid_idle'_def idle_tcb'_def obj_at'_def isReply_def\<close>)?\<close>)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Reply_R.thy:538]: I know it'd make the previous block a bit more unwieldy, but did you wanna put this `all` bit into it too? Does it actually solve the 20 subgoal problem?

File: proof/refine/ARM/TcbAcc_R.thy [hunk 7]
```diff
@@ -5469,5 +5506,15 @@ lemma tcbSchedEnqueue_obj_at':
   apply simp
   done
 
+lemma setThreadState_not_runnable_valid_queues:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/TcbAcc_R.thy:5509]: You can delete this and just use `setThreadState_valid_queues` which I updated with the remove runnable' stuff

**Review by michaelmcinerney — APPROVED** [review]
1% of `cancelIPC_invs'`? Lord have mercy

File: proof/refine/ARM/Reply_R.thy [hunk 8]
```diff
@@ -96,4 +95,487 @@ lemma replyRemoveTCB_st_tcb_at'_sym_ref:
   apply (clarsimp simp: obj_at'_def pred_tcb_at'_def)
   done
 
+lemma getReplyTCB_wp:
+  "\<lbrace>\<lambda>s. reply_at' rptr s \<longrightarrow> obj_at' (\<lambda>reply. P (replyTCB reply) s) rptr s\<rbrace>
+   getReplyTCB rptr
+   \<lbrace>P\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Reply_R.thy:101]: This slightly clashes with the version of this lemma I added in my PR. See https://github.com/seL4/l4v/pull/93/files#diff-8f12378cc553b81307fa6f31bbc1b337R2395

File: proof/refine/ARM/Reply_R.thy [hunk 9]
```diff
@@ -96,4 +95,487 @@ lemma replyRemoveTCB_st_tcb_at'_sym_ref:
...
+  done
+
+lemma setReply_valid_pde_mappings'[wp]:
+  "setReply p r \<lbrace>valid_pde_mappings'\<rbrace>"
+  unfolding valid_pde_mappings'_def setReply_def
+  apply (wpsimp wp: hoare_vcg_all_lift)
+  done
+
+lemma replyUnlink_valid_pspace'[wp]:
+  "replyUnlink rptr tptr \<lbrace>valid_pspace'\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Reply_R.thy:133]: Uh oh, I think there might be some duplicated work here. Victor proved a lot of these lemmas about `replyUnlink` in IpcCancel_R. We need to make sure that they're all consistent before continuing.

File: proof/refine/ARM/Reply_R.thy [hunk 10]
```diff
@@ -96,4 +95,487 @@ lemma replyRemoveTCB_st_tcb_at'_sym_ref:
...
+  "replyRemoveTCB tptr \<lbrace>\<lambda>s. sym_refs (list_refs_of_replies' s)\<rbrace>"
+  unfolding replyRemoveTCB_def decompose_list_refs_of_replies'
+  supply if_cong[cong]
+  apply (wpsimp wp: cleanReply_list_refs_of_replies' hoare_vcg_if_lift hoare_vcg_imp_lift' gts_wp'
+                    haskell_assert_wp
+              simp: pred_tcb_at'_def
+         split_del: if_split)
+  unfolding decompose_list_refs_of_replies'[symmetric] protected_sym_refs_def[symmetric]
+  \<comment>\<open> opt_mapE will sometimes destroy the @{term "(|>)"} inside @{term replyNexts_of}
+      and @{term replyPrevs_of}, but we're using those as our local normal form. \<close>
```
Comment (corlewis) [inline proof/refine/ARM/Reply_R.thy:496]: Is this something we should have a think about more generally? Presumably this is going to come back whenever we deal with `list_refs_of_replies'`.

File: proof/refine/ARM/Reply_R.thy [hunk 11]
```diff
@@ -96,4 +95,487 @@ lemma replyRemoveTCB_st_tcb_at'_sym_ref:
...
+                   , normalise_obj_at'
+                   , (drule obj_at'_to_ks_obj_at', clarsimp)+\<close>)
+       apply (all \<open>drule(1) ks_reply_at'_repliesD[folded protected_sym_refs_def]
+                   , clarsimp simp: projectKO_reply isHead_to_head\<close>)
+       \<comment>\<open> Now, for each case we can blow open @{term sym_refs}, which will give us enough new
+           @{term "(replyNexts_of, replyPrevs_of)"} facts that we can throw it all at metis. \<close>
+       apply (clarsimp simp: sym_refs_def split_paired_Ball in_get_refs
+              , intro conjI impI allI
+              ; metis sym_refs_replyNext_replyPrev_proj[folded protected_sym_refs_def] option.sel
+                      option.inject)+
```
Comment (corlewis) [inline proof/refine/ARM/Reply_R.thy:512]: Fancy!

File: proof/refine/ARM/KHeap_R.thy [hunk 12]
```diff
@@ -24,6 +24,37 @@ abbreviation (input)
 where
   "set_obj' ptr obj s \<equiv> set_ko' ptr (injectKO obj) s"
 
+(* FIXME RT: bikeshedding *)
```
Comment (corlewis) [inline proof/refine/ARM/KHeap_R.thy:27]: To start off the bikeshedding, can you say a bit about the use case where you found this helped? Was it mainly that you didn't want to deal with `is_aligned` and `ps_clear`?

**Review by corlewis — APPROVED** [review]
Looks good!

File: proof/refine/ARM/Reply_R.thy (hunk 10 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Reply_R.thy:496]: I think Miki was wanting to use a slightly different predicate here instead of `sym_refs` for the `list_refs_of_replies'`. It's in her large draft PR for `reply_remove_tcb_corres`

Comment (michaelmcinerney) [reply proof/refine/ARM/Reply_R.thy:496]: Which is to say, this should then become unnecessary

File: proof/refine/ARM/Reply_R.thy (hunk 5 above)
Comment (pierzchalski) [reply proof/refine/ARM/Reply_R.thy:482]: `thin_tac` doesn't have a way to only temporarily hide assumptions: see [VER-1244](https://sel4.atlassian.net/browse/VER-1244), which is exactly about this. Sadly, dodgy temporary definitions seem to be the easiest way to do this sort of thing.

File: proof/refine/ARM/Reply_R.thy (hunk 6 above)
Comment (pierzchalski) [reply proof/refine/ARM/Reply_R.thy:538]: It solves all but 4, hence the indentation afterwards. Not sure which is preferable?

File: proof/refine/ARM/IpcCancel_R.thy (hunk 2 above)
Comment (pierzchalski) [reply proof/refine/ARM/IpcCancel_R.thy:1023]: I'm not sure what you're asking here?

File: proof/refine/ARM/KHeap_R.thy (hunk 12 above)
Comment (pierzchalski) [reply proof/refine/ARM/KHeap_R.thy:27]: This started with @mktnk3 pointing out that in lots of places, `ksPSpace s p = Some blah` is a weaker assumption _and_ weaker conclusion for various properties (I believe `sym_refs`, in my case). Not sure the use-case really affects the bikeshedding, though.

File: proof/refine/ARM/Reply_R.thy (hunk 3 above)
Comment (pierzchalski) [reply proof/refine/ARM/Reply_R.thy:143]: Guh, good catch.

File: proof/refine/ARM/Bits_R.thy [hunk 13]
```diff
@@ -97,6 +97,11 @@ lemma projectKO_reply:
   "(projectKO_opt ko = Some t) = (ko = KOReply t)"
   by (cases ko) (auto simp: projectKO_opts_defs)
 
+lemma reply_of'_KOReply:
```
[the remark this answers is not in the document]
Comment (pierzchalski) [reply proof/refine/ARM/Bits_R.thy:100]: I'm generally wary of adding things to `[simp]`. Do you think it's worth it here?

File: proof/refine/ARM/IpcCancel_R.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/IpcCancel_R.thy:1023]: You have `cancelIPC_obj_at'_only_st_qd_ft` just below this. That is for a predicate that doesn't care about state, queued, or fault updates. But here, you're crunching, and calling something `obj_at'_only_st_qd_ft`, but this predicate here is more general

File: proof/refine/ARM/Reply_R.thy (hunk 5 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Reply_R.thy:482]: Get workin' on that JIRA issue! Sounds good

File: proof/refine/ARM/Reply_R.thy (hunk 6 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Reply_R.thy:538]: If it's a choice between another ; and the `all < blah >`, then I'd go with another ;

File: proof/refine/ARM/Reply_R.thy (hunk 10 above)
Comment (pierzchalski) [reply proof/refine/ARM/Reply_R.thy:496]: Hmm, [this one?](https://github.com/seL4/l4v/pull/92/files) I don't see anything about "removing" `sym_refs`. @mktnk3 got some forward guidance?

File: proof/refine/ARM/Reply_R.thy (hunk 9 above)
Comment (pierzchalski) [reply proof/refine/ARM/Reply_R.thy:133]: Yeah, I've removed a lot of now-redundant stuff in `IpcCancel_R`. Wish I'd caught it earlier though.

File: proof/refine/ARM/Reply_R.thy (hunk 10 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Reply_R.thy:496]: I thought that Miki might have changed the `sym_refs (list_refs_of_resplies' s)` to be phrased in terms of 'sym_heap` (which is at line 784 of IpcCancel_R in that PR), but it seems that she hasn't. Might be worth asking her about it

File: proof/refine/ARM/Reply_R.thy (hunk 8 above)
Comment (pierzchalski) [reply proof/refine/ARM/Reply_R.thy:101]: Updated to use yours.

File: proof/refine/ARM/Reply_R.thy (hunk 9 above)
Comment (corlewis) [reply proof/refine/ARM/Reply_R.thy:133]: I try to at last skim most PRs that come in, even if I don't have anything to contribute to a review. It helps avoid these sorts of situations

File: proof/refine/ARM/Bits_R.thy (hunk 13 above)
[the remark this answers is not in the document]
Comment (corlewis) [reply proof/refine/ARM/Bits_R.thy:100]: I'm not 100% sure, but I haven't been able to think of a case where you wouldn't want to use this simplification.  Does anyone else have an opinion on it? For people not already on this PR, @mbrcknl @lsf37 @Xaphiosis

File: proof/refine/ARM/IpcCancel_R.thy (hunk 2 above)
Comment (pierzchalski) [reply proof/refine/ARM/IpcCancel_R.thy:1023]: Right; this is making use of a `crunches` feature where it goes looking for lemmas named `${constant_name}_${property_name}`, letting those lemmas add side-conditions (I think I have a comment about this somewhere else in the PR). In short, this line doesn't produce a more general lemma, but that fact isn't visible/obvious, which is unfortunate.

File: proof/refine/ARM/Reply_R.thy (hunk 10 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:496]: > I thought that Miki might have changed the `sym_refs (list_refs_of_resplies' s)` to be phrased in terms of 'sym_heap` (which is at line 784 of IpcCancel_R in that PR), but it seems that she hasn't. Might be worth asking her about it

Not quite, Michael. We need `sym_refs (list_refs_of_resplies' s)` just as before. What I have there is some abstraction for the case when we have symmetric heaps, for which our main examples are `replyPrevs_of` and `replyNexts_of`, so that we don’t need to write lemmas in pairs for both directions.

File: proof/refine/ARM/IpcCancel_R.thy (hunk 2 above)
Comment (corlewis) [reply proof/refine/ARM/IpcCancel_R.thy:1023]: To be pedantic, `crunch` adds side-conditions from any lemmas that it finds and reuses, not just those with the appropriate name. It can also find lemmas that it has already proven in the current command or from the `wp` set.

Comment (michaelmcinerney) [reply proof/refine/ARM/IpcCancel_R.thy:1023]: So is the odd naming here actually beneficial?

**Comment by pierzchalski** [comment]
Alright, outstanding issues:
* There are a few lemmas I don't know where to put:
  * `valid_mdb'_lift`
  * `objBits_sc_only_depends_on_scRefills`
* There are some lemmas I'm using that haven't made it in yet, all from @mktnk3's PR.
* Bikeshedding the `ksPSpace`-only `obj_at'` family.
* Some failing tets.

File: proof/refine/ARM/KHeap_R.thy (hunk 12 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:56]: Generally speaking, I am quite hesitant of introducing all these. I think this is something that is not supposed to be introduced in bits like this. If we are to take that approach, maybe doing it more fully and generally would be better. Otherwise we run the risk of diverging. Also, I am rather reluctant in introducing abbreviations for such basic one-liners. To me, these will potentially hide information, and that could potentially mean extra load on everyone’s mind. But this is also just my preference as well. @lsf37 can I ask for your option on this?

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:56]: And I also should say that, at this point, I myself don’t have a clear picture of where my comments you are referring to was heading to, if it ever does.

File: proof/refine/ARM/Bits_R.thy (hunk 13 above)
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Bits_R.thy:100]: Agreed on both counts. If we can safely put this in [simp] then we should. Pinging @lsf37 @mbrcknl @Xaphiosis again.

File: proof/refine/ARM/Invariants_H.thy [hunk 14]
```diff
@@ -2655,11 +2654,25 @@ lemma typ_at_lift_page_table_at'_strong:
...
+      and reply: "\<And>p. f \<lbrace>\<lambda>s. P (typ_at' ReplyT p s)\<rbrace>"
+      and ntfn: "\<And>p. f \<lbrace>\<lambda>s. P (typ_at' NotificationT p s)\<rbrace>"
+  shows "f \<lbrace>\<lambda>s. P (valid_tcb_state' st s)\<rbrace>"
+  unfolding valid_tcb_state'_def valid_bound_reply'_def
+  apply (case_tac st
+         ; clarsimp split: option.splits
+         , wpsimp wp: hoare_vcg_imp_lift' hoare_vcg_all_lift hoare_vcg_conj_lift_N[where N=P]
+                           typ_at_lift_ep'_strong[OF ep] typ_at_lift_reply'_strong[OF reply]
+                           typ_at_lift_ntfn'_strong[OF ntfn])
+  done
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Invariants_H.thy:2668]: Woah, nice lemma!

File: proof/refine/ARM/Reply_R.thy [hunk 15]
```diff
@@ -96,4 +95,469 @@ lemma replyRemoveTCB_st_tcb_at'_sym_ref:
   apply (clarsimp simp: obj_at'_def pred_tcb_at'_def)
   done
 
+crunches setReplyTCB
+  for ksReadyQueues[wp]: "\<lambda>s. P (ksReadyQueues s)"
+  and ksSchedulerAction[wp]: "\<lambda>s. P (ksSchedulerAction s)"
+  and valid_queues[wp]: "valid_queues"
+
+crunches getReplyTCB
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:103]: Add "FIXME RT: move"

**Review by MitchellBuckley — COMMENTED** [review]
This is huge and looks excellent.
The addition of new definitions needs some carefuly consideration when they are connected to very fundamental concepts such as `obj_at'`. But it seems like the 'bike-shedding' is alreaduy occuring, so that's good. Though I think in this case it is not really bike-shedding because that kind of infrastructure is not unimportant.

File: proof/refine/ARM/Reply_R.thy (hunk 15 above)
Comment (pierzchalski) [reply proof/refine/ARM/Reply_R.thy:103]: Anywhere it "should" go?

Comment (MitchellBuckley) [reply proof/refine/ARM/Reply_R.thy:103]: No idea. If there is not a general place for it, then at least put it at the top of the file?

File: proof/refine/ARM/Bits_R.thy (hunk 13 above)
[the remark this answers is not in the document]
Comment (pierzchalski) [reply proof/refine/ARM/Bits_R.thy:100]: Went ahead and did the obvious thing of... just seeing what happens. Making it `[simp]` doesn't break anything, so sure, I'll change it.

File: spec/haskell/src/SEL4/Object/Reply.lhs [hunk 16]
```diff
@@ -176,9 +185,8 @@ on the thread state of the replyTCB of the replyPtr
 > replyUnlink_assertion _ _ _ = True
 
 > cleanReply :: PPtr Reply -> Kernel ()
-> cleanReply replyPtr = do
->     reply <- getReply replyPtr
->     setReply replyPtr (reply { replyPrev = Nothing, replyNext = Nothing })
+> cleanReply replyPtr = updateReply replyPtr (\reply -> reply { replyPrev = Nothing,
```
Comment (mktnk3) [inline spec/haskell/src/SEL4/Object/Reply.lhs:188]: I am ok with having `updateReply` at the Haskell level, but I would like to have `cleanReply` to be defined as two separate lines of `updateReply`, one for the prev update and another for the next update. They are quite different semantically and a bit of pain to handle when bundled together...

Comment (pierzchalski) [reply spec/haskell/src/SEL4/Object/Reply.lhs:188]: Sounds good!

File: proof/refine/ARM/KHeap_R.thy (hunk 12 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:56]: Pinging @lsf37 again on this. I think I have been using projections instead in most of the situations when I want something like this. For example, `ks_reply_at’ r p s` here is equivalent to `replies_of’ s p = Some r`. So, I am not convinced that we should be making a step in the direction suggested here at this point.

Comment (pierzchalski) [reply proof/refine/ARM/KHeap_R.thy:56]: Alright, I think I'll rip this out for now, maybe switch to projections when appropriate.

Comment (pierzchalski) [reply proof/refine/ARM/KHeap_R.thy]: Ha, wow, this was almost entirely unused. Oh well.

**Comment by pierzchalski** [comment]
[testboard](https://bamboo.ts.data61.csiro.au/browse/L4V-TESTBOARD-616)

File: proof/refine/ARM/IpcCancel_R.thy [hunk 17]
```diff
@@ -756,136 +717,178 @@ lemma setEndpoint_pde_mappings'[wp]:
...
+  and valid_release_queue'[wp]: valid_release_queue'
+  and untyped_ranges_zero'[wp]: "untyped_ranges_zero'"
+  (wp: crunch_wps)
 
-lemma replyUnlink_sch_act_simple[wp]:
-  "replyUnlink r t' \<lbrace>sch_act_simple\<rbrace>"
-  apply (simp add: replyUnlink_def setReplyTCB_def getReplyTCB_def)
-  by (wpsimp wp: hoare_drop_imps)
+(* FIXME RT: move to... ?*)
+lemma add_asserts:
```
Comment (mktnk3) [inline proof/refine/ARM/IpcCancel_R.thy:829]: I think this already exists: `hoare_strengthen_pre_via_assert_backward`

File: proof/refine/ARM/IpcCancel_R.thy [hunk 18]
```diff
@@ -756,136 +717,178 @@ lemma setEndpoint_pde_mappings'[wp]:
...
+  assumes not: "\<lbrace>Not o P\<rbrace> f \<lbrace>\<lambda>_. \<bottom>\<rbrace>"
+  shows "\<lbrace>\<lambda>s. P s \<and> Q s\<rbrace> f \<lbrace>R\<rbrace> \<Longrightarrow> \<lbrace>Q\<rbrace> f \<lbrace>R\<rbrace>"
+  apply (insert use_valid[OF _ not])
+  apply (fastforce simp: valid_def)
+  done
+
+lemma blockedCancelIPC_asserts:
```
Comment (mktnk3) [inline proof/refine/ARM/IpcCancel_R.thy:836]: We probably don’t need to have this as a separate lemma. Is there any particular reason you cannot include this in the main proof below?

File: proof/refine/ARM/TcbAcc_R.thy [hunk 19]
```diff
@@ -3039,6 +3058,7 @@ lemma sts_sch_act':
   apply (wpsimp wp: threadSet_pred_tcb_at_state threadSet_sch_act_wf hoare_vcg_disj_lift)
   done
 
+(* FIXME: sts_sch_act' (above) is stronger, and should be the wp rule. VER-1366 *)
```
Comment (mktnk3) [inline proof/refine/ARM/TcbAcc_R.thy:3061]: Is this MCS specific? If so, can you label it with FIXME RT?

File: proof/refine/ARM/Reply_R.thy [hunk 20]
```diff
@@ -95,4 +109,462 @@ lemma replyRemoveTCB_st_tcb_at'_sym_ref:
...
+  "\<lbrakk>replies_of' s rptr = Some reply; sym_refs (list_refs_of_replies' s)\<rbrakk>
+   \<Longrightarrow> replyNexts_of s rptr = replyNext_of reply
+       \<and> (case replyNext_of reply of
+            Some next \<Rightarrow> replyPrevs_of s next = Some rptr
+          | None \<Rightarrow> \<forall>rptr'. replyPrevs_of s rptr' \<noteq> Some rptr)
+       \<and> replyPrevs_of s rptr = replyPrev reply
+       \<and> (case replyPrev reply of
+            Some prev \<Rightarrow> replyNexts_of s prev = Some rptr
+          | None \<Rightarrow> \<forall>rptr'. replyNexts_of s rptr' \<noteq> Some rptr)"
+  \<comment>\<open> opt_mapE will sometimes destroy the @{term "(|>)"} inside @{term replyNexts_of}
```
Comment (mktnk3) [inline proof/refine/ARM/Reply_R.thy:459]: I don’t quite understand this comment... are you sure this `supply` line is doing anything?

File: proof/refine/ARM/KHeap_R.thy [hunk 21]
```diff
@@ -365,6 +365,14 @@ lemma non_sc_same_typ_at'_objBits_always_the_same:
 lemmas non_sc_same_typ_at'_ko_wp_at'_set_ko'_iff =
   same_size_ko_wp_at'_set_ko'_iff[OF non_sc_same_typ_at'_objBits_always_the_same]
 
+lemma obj_at'_strip:
```
Comment (mktnk3) [inline proof/refine/ARM/KHeap_R.thy:368]: Is this used in this PR?

File: proof/refine/ARM/Invariants_H.thy [hunk 22]
```diff
@@ -3868,12 +3890,16 @@ private lemma ko_at_defn_ko_wp_at':
   by (clarsimp simp: ko_at'_defn_def obj_at'_real_def
                      ko_wp_at'_def project_inject)
 
-method normalise_obj_at' =
+(* VER-1364: normalise_obj_at' sometimes doesn't normalise ob_at' unless you use it twice. *)
```
Comment (mktnk3) [inline proof/refine/ARM/Invariants_H.thy:3893]: If this is a complete issue, we usually don’t leave such comments in the theory file. You can record that it’s completed in the JIRA ticket itself, and you can certainly comment on the PR instead.

Comment (pierzchalski) [reply proof/refine/ARM/Invariants_H.thy:3893]: Do you mean "completed" issue? This is a hacky temporary fix - the real fix should be to figure out why `normalise_obj_at'_step` doesn't perform all the required work in one go, hence the outstanding comment.

Comment (mktnk3) [inline proof/refine/ARM/Invariants_H.thy:3893]: I probably don’t see the point of this comment. Can you be a bit more clear? How does the JIRA issue relate to what is written here?

Comment (pierzchalski) [reply proof/refine/ARM/Invariants_H.thy:3893]: The point is so when someone comes along later and sees this weird repeated method, they know _why_ it's a weird repeated method: for some reason it doesn't always do what we want it to do, and it's a known issue, and if they want more details they can look up the issue.

Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:3893]: If there is something that still needs to be fixed, could you please label it with “FIXME RT”? If the JIRA issue has more details of the issue, you can also say “see VER-XXX for details” or something like that?

File: proof/refine/ARM/KHeap_R.thy (hunk 21 above)
Comment (pierzchalski) [reply proof/refine/ARM/KHeap_R.thy]: Turns out no :)

File: proof/refine/ARM/TcbAcc_R.thy (hunk 19 above)
Comment (pierzchalski) [reply proof/refine/ARM/TcbAcc_R.thy:3061]: I don't think this is MCS-specific - this is just a weak rule incorrectly declared `[wp]`.

File: proof/refine/ARM/Reply_R.thy (hunk 20 above)
Comment (pierzchalski) [reply proof/refine/ARM/Reply_R.thy:459]: Just reiterating our conversation on mattermost: `opt_mapE` is declared `[elim!]` somewhere, and that declaration messes up the proof state here. Turns out we remove it from `[elim!]` on RISCV64; [VER-1367](https://sel4.atlassian.net/browse/VER-1367) asks if we should just remove it from `[elim!]` everywhere.

Separately, you mentioned you got a copy of this proof to go through without the `supply` line - I'll see if that works for me too.

**Comment by pierzchalski** [comment]
If [this testboard](https://bamboo.ts.data61.csiro.au/browse/L4V-TESTBOARD-ARMVERIFY-628) goes through, I think this is ready to merge.

File: spec/haskell/src/SEL4/Object/Reply.lhs [hunk 23]
```diff
@@ -188,6 +195,12 @@ on the thread state of the replyTCB of the replyPtr
 > getReplyTCB r = liftM replyTCB (getReply r)
 
 > setReplyTCB :: Maybe (PPtr TCB) -> PPtr Reply -> Kernel ()
-> setReplyTCB tptrOpt rptr = do
->     r <- getReply rptr
->     setReply rptr (r { replyTCB = tptrOpt})
+> setReplyTCB tptrOpt rptr = updateReply rptr (\reply -> reply { replyTCB = tptrOpt })
+
+> replyClear :: PPtr Reply -> PPtr TCB -> Kernel ()
```
Comment (mktnk3) [inline spec/haskell/src/SEL4/Object/Reply.lhs:200]: Hmm. I think this is a duplicated old version. Maybe something went wrong when you rebased. I think Corey moved this to `ObjectType.lhs` and it should have `cancelIPC` instead of `replyUnlink`.

File: proof/refine/ARM/KHeap_R.thy (hunk 12 above)
Comment (mbrcknl) [reply proof/refine/ARM/KHeap_R.thy]: Meta comment: When selecting code to make a comment on a pull request, it would be good to use a multi-line selection for the comment, selecting as many lines as might be relevant to the discussion that could follow from the initial comment.
In the conversation UI, GitHub never shows context *below* the lines that were selected, despite a [7-year-old feature request](https://github.com/isaacs/github/issues/97). Also, GitHub doesn't give a way to get more context in the conversation UI, so one has to go digging in the diff for the file to find the context. And if the branch has been force-pushed, that context can be extremely difficult to find, if it can be found at all.
Explicitly selecting a more generous amount of context would therefore help people like me who are late to the party and want to try to catch up on all this great PR communication. :-)

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy]: > Meta comment: When selecting code to make a comment on a pull request, it would be good to use a multi-line selection for the comment, selecting as many lines as might be relevant to the discussion that could follow from the initial comment.

Right. that makes sense. I didn’t know that that was possible, but it should be, I suppose!

File: spec/haskell/src/SEL4/Object/Reply.lhs (hunk 23 above)
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/Reply.lhs:200]: Good spotting! As far as I can tell we should just be able to delete this duplicated version. It's not exported so I don't think it's accidentally used anywhere.

Comment (pierzchalski) [reply spec/haskell/src/SEL4/Object/Reply.lhs]: Alright, as expected, removing this didn't break anything On My Machine™️ . Gonna start a testboard anyway, just in case.

**Comment by pierzchalski** [comment]
hopefully [final testboard](https://bamboo.ts.data61.csiro.au/browse/L4V-TESTBOARD-629), confirming that removing a redundant `replyClear` function didn't mess up the proofs.

File: spec/haskell/src/SEL4/Object/Reply.lhs [hunk 24]
```diff
@@ -95,6 +101,7 @@ This module specifies the behavior of reply objects.
 >         setSchedContext scPtr (sc { scReply = prevReplyPtrOpt })
 >         when (prevReplyPtrOpt /= Nothing) $ do
 >             prevReplyPtr <- return $ fromJust prevReplyPtrOpt
+>             assert (replyPtr /= prevReplyPtr) "replyPop: reply lists must be distinct"
```
Comment (mktnk3) [inline spec/haskell/src/SEL4/Object/Reply.lhs:104]: I should have caught this before this PR was merged, but this line of assert, which is also added twice in `replyRemoveTCB`, does not seem to be needed at all. Why are these lines added to start with?

As I have been saying many weeks now, I am working on `reply_remove_tcb_corres`. So I’ve wasted some time on this while rebasing. Generally speaking, we probably want to make sure that all the spec updates are absolutely necessary. We really can’t afford to this kind of things, now for MCS in particular, but anytime, actually.
